US04279918
2-(3,4-dimethoxybenzyl)pyrrolidine
Hydrogenate 11.7 g of 1-benzyl-2-(3,4-dimethoxybenzyl)pyrrolidine in ethanol with 6.5 g of palladium/activated charcoal (10% strength)/hydrogen. Free the product from solvent and catalyst, and then distil it under a high vacuum. Purify via the picrate to obtain a yield of 3.2 g (38.5% of theory).

reactant | 1-benzyl-2-(3,4-dimethoxybenzyl)pyrrolidine | 11.7 g | C(C1=CC=CC=C1)N1C(CCC1)CC1=CC(=C(C=C1)OC)OC | C20H25NO2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium | 6.5 g | [Pd] | Pd
product | 2-(3,4-dimethoxybenzyl)pyrrolidine | COC=1C=C(CC2NCCC2)C=CC1OC | C13H19NO2
